US07935815B2
Oxalyl chloride (1.56 mL) and DMF (1 drop) were added to a solution of 4-chloro-2-phenylbutyric acid (2.28 g) in methylene chloride (40 mL) at 0° C., and the reaction solution was stirred at room temperature for one hour. The reaction solution was concentrated under reduced pressure to obtain 4-chloro-2-phenylbutyric acid chloride. A solution of 4-chloro-2-phenylbutyric acid chloride in THF (10 mL) was added to a solution of tert-butyl carbazate (1.5 g) and triethylamine (7.8 mL) in THF (40 mL) at 0° C., and the reaction solution was stirred at room temperature for one hour. The reaction solution was added to a saturated sodium bicarbonate solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain tert-butyl N′-(4-chloro-2-phenylbutyryl)hydrazinecarboxylate (3.17 g). A solution of 4 N hydrogen chloride in ethyl acetate (50 mL) was added to tert-butyl N′-(4-chloro-2-phenylbutyryl)hydrazinecarboxylate (3.17 g). The reaction solution was stirred at room temperature for one hour and then concentrated under reduced pressure to obtain 4-chloro-2-phenylbutyric acid hydrazide hydrochloride (2.52 g). A solution of 4-chloro-2-phenylbutyric acid hydrazide hydrochloride (2.52 g) and triethylamine (5.7 mL) in ethanol (40 mL) was added to a solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride (3.00 g) and triethylamine (6.0 mL) in ethanol (50 mL) at room temperature, and the reaction solution was stirred at 80° C. for 24 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the resulting residue, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system) to obtain 231 mg of the racemic title compound. The property values of the compound are as follows.

reactant | Oxalyl chloride | 1.56 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chloro-2-phenylbutyric acid | 2.28 g | ClCCC(C(=O)O)C1=CC=CC=C1 | C10H11ClO2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-phenylbutyric acid chloride | ClCCC(C(=O)Cl)C1=CC=CC=C1 | C10H10Cl2O
